US07671205B2
A solution methyl 2-(4-cyanophenoxy)acetate in DMF was treated with NaN3 and NH4Cl and stirred in an oil bath at 80° C. for 18 hours. Then, the mixture was poured into H2O and extracted with Et2O. The aqueous layer was acidified to pH 2-3 with HCl and the precipitate was collected to give methyl 2-(4-(2H-tetrazol-5-yl)phenoxy)acetate.

reactant | methyl 2-(4-cyanophenoxy)acetate | C(#N)C1=CC=C(OCC(=O)OC)C=C1 | C10H9NO3
reactant | NaN3 | [N-]=[N+]=[N-].[Na+]
reactant | NH4Cl | [NH4+].[Cl-]
reactant | H2O | O | H2O
solvent | DMF | CN(C)C=O | C3H7NO
product | methyl 2-(4-(2H-tetrazol-5-yl)phenoxy)acetate | N=1NN=NC1C1=CC=C(OCC(=O)OC)C=C1 | C10H10N4O3
